US07041690B2
A portion of 2-{(4Z)-4-[4-(2-bromophenoxy)benzylidene]-5-oxo-4,5-dihydro-1,3-oxazol-2-yl}phenyl acetate (0.10 g, 0.229 mmol), prepared as described above, is suspended in DCM (10 mL) and treated with glycine ethyl ester hydrochloride (67 m g, 0.48 mmol). The reaction is heated to 60° C. for 4 hours and then concentrated. The resulting solid is triturated with EtOAc to provide ethyl N-{(2Z)-3-[4-(2-bromophenoxy)phenyl]-2-[(2-hydroxybenzoyl)amino]prop-2-enoyl}glycinate, which is subsequently suspended in 1N NaOH (1 mL) and ethanol (1 mL) and stirred at 25° C. for 3 hours. The ethanol is removed and several drops of concentrated HCl added and a precipitate is formed. Filtration afforded 65 mg of N-{(2Z)-3-[4-(2-bromophenoxy)phenyl]-2-[(2-hydroxybenzoyl)amino]prop-2-enoyl}glycine.

reactant | 2-{(4Z)-4-[4-(2-bromophenoxy)benzylidene]-5-oxo-4,5-dihydro-1,3-oxazol-2-yl}phenyl acetate | 0.229 mmol, 0.10 g | C(C)(=O)OC1=C(C=CC=C1)C=1OC(/C(/N1)=C/C1=CC=C(C=C1)OC1=C(C=CC=C1)Br)=O | C24H16BrNO5
reactant | glycine ethyl ester hydrochloride | 0.48 mmol | Cl.C(C)OC(CN)=O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | ethyl N-{(2Z)-3-[4-(2-bromophenoxy)phenyl]-2-[(2-hydroxybenzoyl)amino]prop-2-enoyl}glycinate | BrC1=C(OC2=CC=C(C=C2)\C=C(\C(=O)NCC(=O)OCC)/NC(C2=C(C=CC=C2)O)=O)C=CC=C1 | C26H23BrN2O6
